US04198514
In the same manner as Example 1-(d), 5 g of methyl 3-cyano-4-(2,4-dichlorophenyl)butyrate was reduced with the aid of Raney's nickel to obtain the contemplated product 4-(2,4-dichlorobenzyl)-2-pyrrolidinone.

reactant | methyl 3-cyano-4-(2,4-dichlorophenyl)butyrate | 5 g | C(#N)C(CC(=O)OC)CC1=C(C=C(C=C1)Cl)Cl | C12H11Cl2NO2
catalyst | Raney's nickel | [Ni] | Ni
product | 4-(2,4-dichlorobenzyl)-2-pyrrolidinone | ClC1=C(CC2CC(NC2)=O)C=CC(=C1)Cl | C11H11Cl2NO
